US07666878B2
95c) [1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
To a mixture comprising [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester: (11.8 g, 26.8 mmol) in water (100 ml) and THF (250 ml) is added dropwise NaOH (53.6 ml of a 1M aqueous solution) at room temperature and the two phase suspension is allowed to stir overnight. The solvent is removed in vacuo and the crude is triturated with diethyl ether, DCM and ethyl acetate. The resulting solid is dissolved in hot water (150 ml) and adjusted to pH 3-4 using 6M HCl. The suspension that forms is filtered and is further purified by dissolving in hot IPA (250 ml) and refluxing in the presence of charcoal for 5 minutes. The solution is filtered and the titled product is recrystallised from water/IPA as a white/pale green crystals. (MH+ 427)

reactant | [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=C(C=C(C=C2)S(=O)(=O)C)C(F)(F)F)C)=O | C20H19F3N2O4S
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | NaOH | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | [1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | CS(=O)(=O)C1=CC(=C(CN2C(=C(C=3C2=NC=CC3)CC(=O)O)C)C=C1)C(F)(F)F | C19H17F3N2O4S
